Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female presented to ED via EMS after a fall at home. 
 Patient reports that she went to answer the telephone and fell 
to the ground.  She pressed lifeline and was brought in by 
ambulance.  Patient denies complaints except to say that she is 
frightened of being in this "remote" area of the hospital.  She 
denies pain, chest pain, shortness of breath.  She is unable to 
provide any further history including any past medical history 
or medication lists.  
.
In the ED there were no signs of injury.  A CT head revealed 
bilateral SDHs which were confirmed to be chronic by patient's 
daughter.  Given aspirin and lopressor.
 
Past Medical History:
HTN
chronic SDH
Sick sinus syndrome s/p PPM
A-fib
Aortic Insufficiency
Chronic Kidney Disease, Stage III

 
Social History:
___
Family History:
N/C
 
Physical Exam:
VITAL SIGNS:
Temperature 96.5
Blood pressure 160/55
Heart rate 62
Resp rate 16
Sat 94%RA
GENERAL:  Elderly female in no acute distress.
HEENT:  Sclerae anicteric.  Pupils slightly irregular shape but 
round and reactive to light.  Oropharynx is clear without 
lesions or thrush.
NECK:  Supple, without lymphadenopathy.
LUNGS:  Clear to auscultation and percussion bilaterally. No 
rhonchi, rales or wheezes.
HEART:  Regular rate and rhythm. III/VI SM RUSB.  III/VI DM LSB
ABDOMEN:  Soft, nontender, nondistended, normal bowel sounds.
EXTREMITIES:  No cyanosis, clubbing, edema. No pain with 
movement of knee/hip joints.  No signs of injury 
SKIN:  No rash.
NEURO: A/A Ox3
 
Pertinent Results:
Admit Labs/Studies:
--------------------
UA: ___ RBC, ___ WBC
.
Trop-T: 0.02  
.
139 / 104 / 36    gluc  95   
----------------
5.0 / 28 / 1.4  
.  
CK: 74  MB: Notdone
.
Dig: 0.5 
.
WBC 71.  HCT  35.3  PLT 146 
 N:75.8 L:15.8 M:5.7 E:2.3 Bas:0.5 
.
___: 13.7  PTT: 33.3  INR: 1.2  
.
CXR: Left-sided pacer is seen with leads overlying the right 
atrium and ventricle. Cardiac silhouette appears unremarkable.  
The aorta appears tortuous.  No focal consolidations or pleural 
effusions are identified.  Slightly prominent interstitial 
pattern is seen, likely chronic, without evidence of frank 
pulmonary edema.  Severe levoscoliosis of the thoracolumbar 
spine identified. 
.
Pelvis: No definite fracture or dislocation identified. 
Assessment of the sacrum and lumbar spines limited by overlying 
bowel gas and a large amount of stool.  The pubic symphysis 
appears grossly unremarkable. 
.
NCHCT: Chronic bilateral subdural hematomas, left greater than 
right, with mild rightward shift.  No evidence of acute 
hemorrhage. Sinus mucosal disease with aerosolized secretions 
within the sphenoid sinus. 
.
EKG: No prior. A-paced. PRWP.  TWI aVL. LVH.
.
Other Labs:
-----------
___ 07:45AM BLOOD WBC-5.8 RBC-3.83* Hgb-12.6 Hct-37.3 
MCV-97 MCH-33.0* MCHC-33.9 RDW-13.8 Plt ___
___ 07:45AM BLOOD Glucose-86 UreaN-28* Creat-1.2* Na-140 
K-4.2 Cl-104 HCO3-27 AnGap-13
___ 08:10AM BLOOD VitB12-756 Folate-GREATER TH
___ 08:10AM BLOOD TSH-4.5*
___ 08:10AM BLOOD T4-5.9 calcTBG-1.04 TUptake-0.96 
T4Index-5.7 Free T4-1.2
___ 10:15PM BLOOD Digoxin-0.5*
___ 07:45AM BLOOD Phenyto-12.4
___ 08:10AM BLOOD Phenyto-18.5
___ 10:15PM BLOOD Phenyto-21.1*
.
TTE (___):
The left atrium is mildly dilated. There is moderate symmetric 
left ventricular hypertrophy. The left ventricular cavity size 
is normal. Overall left ventricular systolic function is normal 
(LVEF>55%). Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets (3) are moderately 
thickened. There is no aortic valve stenosis. Moderate to severe 
(3+) aortic regurgitation is seen. The aortic regurgitation jet 
is eccentric, directed toward the anterior mitral leaflet. The 
mitral valve leaflets are mildly thickened. Mild (1+) mitral 
regurgitation is seen. There is mild pulmonary artery systolic 
hypertension. Significant pulmonic regurgitation is seen. There 
is no pericardial effusion. 

IMPRESSION: Suboptimal image quality. Moderate symmetric left 
ventricular hypertrophy with preserved regional and global 
biventricular sytolic function. Moderately thickened aortic 
valve leaflets with moderate to severe aortic regurgitation. 
Mild pulmonary hypertension.  
 
Brief Hospital Course:
___ year old woman presents after fall versus syncope.  
.
1) Mechanical Fall/Pre-syncope/Aortic Regurgitation/Sick Sinus 
Syndrome s/p PPM:  
No signs of injury.  Head CT with SDHs which look old per 
NSURG/radiology.  EKG without ischemic changes.  Does have a 
murmur on exam.  Had TTE which showed this was consistent with 
3+ Aortic Insufficiency.  Has preserved systolic function.  
Monitored on telemetry without event.  Ruled out for an MI.  Had 
pacemaker ___ Sensia SEDRO1) interrogated on ___ by 
EP service.  This did not show any events since last 
interrogation (end of ___ and showed pacemaker was 
functioning with adequate settings.  The patient was seen by 
physical therapy who recommended placement in rehab given risk 
of falling.  
.
2) Acute on Chronic Kidney Disease, Stage III:
Unclear of  baseline Cr, but initially Cr was 1.4.  This 
improved to 1.2 prior to discharge.  Renal function should be 
followed carefully after discharge and patient should be 
encouraged to drink adequate PO fluids.
.
3) Hypertension:
Initially hypertensive.  This resolved after restarting home 
meds.  Of note, Enalapril was given once a day during course of 
admission, however patient is on med twice daily.  This was 
restarted at home dose on discharge.
.
4) Subdural Hematomas
Head CT indicated these seemed to be stable.  Was maintained on 
dilantin, however initial level was supertherapeutic (corrected 
for albumin/CrCl).  Dose was reduced to 100mg daily and then 
stopped for one day.  On discharge day, level was in therapeutic 
range and she was restarted on 100mg daily.  This level will 
need to be followed closely on discharge.
.
5) Atrial Fibrillation
She was paced during course of admission.  Underlying rhythm on 
interrogation appears to be sinus.  She was continued on 
B-blocker and digoxin.  Dig levels should be followed carefully 
on discharge.  Goal would be lower level of therapeutic range 
(0.4-0.8), though it is unclear if patient needs to continue on 
this medication.  This should be discussed with outpatient 
providers.
.
6) Likely dementia with question of acute delirium
TSH was mildly elevated, however Free T4 was WNL (as above).  
Likely sick euthyroid.  B12/Folate WNL.  Patient was followed by 
the geriatrics consult service.  They recommended possible 
follow up in ___ Memory clinic.  This is left to the 
discretion of patient/family and PCP (number given on discharge 
paperwork).  

 
Medications on Admission:
Lopressor 12.5mg bid
Dilantin 200mg daily
Digoxin 0.125mcg every other day
Omeprazole 20mg daily
MVI
Enalapril 10mg bid

 
Discharge Medications:
1. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).  
2. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
3. Multivitamin,Tx-Minerals     Tablet Sig: One (1) Tablet PO 
DAILY (Daily).  
4. Enalapril Maleate 10 mg Tablet Sig: One (1) Tablet PO twice a 
day.  
5. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO every other 
day.  
6. Phenytoin Sodium Extended 100 mg Capsule Sig: One (1) Capsule 
PO DAILY (Daily): Will need to follow levels every ___ days 
(corrected for albumin) and adjust dose to achieve corrected 
level of ___.  
7. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Presyncope
s/p Fall, likely mechanical
Subdural hematoma, chronic
Sick Sinus Syndrome s/p pacemaker ___ Sensia SEDRO1)
A-fib
Aortic Regurgitation
Hypertension
Dementia
Acute on Chronic Kidney Disease, Stage III

 
Discharge Condition:
Afebrile, vital signs stable.  AAOx3 (though does not know exact 
date, knows month/year).

 
Discharge Instructions:
You were admitted due to a fall.  We did an evaluation of your 
cardiac function (echocardiogram and pacemaker iand it does not 
appear this contributed to your fall.  Your fall was likely due 
to a loss in your balance.
.
Please call your primary care doctor or return to the emergency 
room if you should have chest pain, shortness of breath, high 
fever, or further falls.
 
Followup Instructions:
___